US09376442B2
tert-Butyl 4-{[(4-[5-(cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidin-7-yl)carbonyl]amino}piperidine-1-carboxylate
4-[5-(Cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid from example D.c1 (3.98 g; 8.0 mmol), triethylamine (2.43 g; 24.0 mmol) and HOBt (1.08 g; 8.0 mmol) is stirred in dry dichloromethane (40 mL) for 30 min, before addition of EDC (1.84 g; 9.6 mmol). The reaction mixture is stirred for one hour at ambient temperature. After addition of tert-butyl 4-amino-piperidine-1-carboxylate hydrochloride (2.27 g; 9.6 mmol) the reaction mixture is stirred at ambient temperature until the starting material is consumed according to LC-MS and chromatographed on silica gel (ethylacetate/cyclohexane 1:1) to yield the title compound as colorless foam.

reactant | 4-[5-(Cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid | C1(CC1)COC1=C(C2=C(OCO2)C=C1)C=1C2=C(N=CN1)C(=C(N2COCC[Si](C)(C)C)C)C(=O)O | C25H31N3O6Si
reactant | triethylamine | 24.0 mmol, 2.43 g | C(C)N(CC)CC | C6H15N
reactant | HOBt | 8.0 mmol, 1.08 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 9.6 mmol, 1.84 g
reactant | tert-butyl 4-amino-piperidine-1-carboxylate hydrochloride | 9.6 mmol, 2.27 g | Cl.NC1CCN(CC1)C(=O)OC(C)(C)C
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | tert-Butyl 4-{[(4-[5-(cyclopropylmethoxy)-1,3-benzodioxol-4-yl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidin-7-yl)carbonyl]amino}piperidine-1-carboxylate | C1(CC1)COC1=C(C2=C(OCO2)C=C1)C=1C2=C(N=CN1)C(=C(N2COCC[Si](C)(C)C)C)C(=O)NC2CCN(CC2)C(=O)OC(C)(C)C | C35H49N5O7Si
